US05068371
1-[(2,4-Difluorophenyl)methyl]-1H-pyrrole
8.6 g (0.060 mol) of 2,4-difluorobenzylamine are heated in an autoclave with 8 g (0.060 mol) of 2,5-dimethoxytetrahydrofuran for 2 hours at 250° C. The reaction mixture is cooled and then purified by vacuum distillation. 9.2 g (79% of theory) of a colourless oil which boils at 110°-114° C. at 16 mbar are obtained.

reactant | 2,4-difluorobenzylamine | 0.060 mol, 8.6 g | FC1=C(CN)C=CC(=C1)F | C7H7F2N
reactant | 2,5-dimethoxytetrahydrofuran | 0.060 mol, 8 g | COC1OC(CC1)OC | C6H12O3
product | 1-[(2,4-Difluorophenyl)methyl]-1H-pyrrole | FC1=C(C=CC(=C1)F)CN1C=CC=C1 | C11H9F2N
